US07138425B2
c) 2-(3-Nitro-6-fluorophenyl)benzoxazole
Prepared by the method of Example 15c), from N-phenyl-2-fluoro-5-nitrobenzamide (2.89 g, 10.4 mmol) and p-toluenesulfonic acid monohydrate (3.80 g, 20.0 mmol) the subtitle compound was obtained (2.41 g, 90%). 1H NMR (DMSO) δ 8.95(m, 1H), 8.52(m, 1H), 7.90(m, 2H), 7.81(t, 1H), 7.50(m, 2H).

reactant | N-phenyl-2-fluoro-5-nitrobenzamide | 10.4 mmol, 2.89 g | C1(=CC=CC=C1)NC(C1=C(C=CC(=C1)[N+](=O)[O-])F)=O | C13H9FN2O3
reactant | p-toluenesulfonic acid monohydrate | 20.0 mmol, 3.80 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 2-(3-Nitro-6-fluorophenyl)benzoxazole | [N+](=O)([O-])C=1C=C(C(=CC1)F)C=1OC2=C(N1)C=CC=C2 | C13H7FN2O3
